US04808729
1-(3-Bromopropoxy)-2-propylbenzene
The title compound was prepared according to the procedure of Example 7 using 2-n-propylphenol (30 g, 0.22 mol) in methylene chloride (400 ml), sodium hydroxide (18.8 g, 0.44 mol) in water (400 ml), 1,3-dibromopropane (100 g, 1 mol) and tetra-n-butylammonium bisulfate (80 g, 0.22 mol). Distillation of the crude product yielded 55 g (75%) of pure material, b.p. 85°-87° (0.1 mm Hg).

reactant | 2-n-propylphenol | 0.22 mol, 30 g | C(CC)C1=C(C=CC=C1)O | C9H12O
reactant | sodium hydroxide | 0.44 mol, 18.8 g | [OH-].[Na+]
reactant | 1,3-dibromopropane | 1 mol, 100 g | BrCCCBr | C3H6Br2
solvent | methylene chloride | 400 ml | C(Cl)Cl | CH2Cl2
solvent | water | 400 ml | O | H2O
catalyst | tetra-n-butylammonium bisulfate | 0.22 mol, 80 g | S([O-])(O)(=O)=O.C(CCC)[N+](CCCC)(CCCC)CCCC
product | 1-(3-Bromopropoxy)-2-propylbenzene | BrCCCOC1=C(C=CC=C1)CCC | C12H17BrO
